US05714506
Step A: (R)-N-[1-(3,4-dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(tetrazolo[1,5-a]pyrid-6-yl)-ethylamine
A solution of 0.178 g (1 mmol) of (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane (see Fisher and Wyvratt, EP 0 318 092 A2 for the synthesis of this compound) and 0.518 g (2 mmol) of α-(3,4-dimethoxyphenyl) benzeneethanamine in dry methanol (10 mL) was heated at reflux in a gas tight vessel for 14 hours. The reaction mixture was concentrated and the residue was chromatographed on silica gel (5% methaol in methylene chloride) to give the product as a white solid: 1H NMR (500 MHz, CDCl3)δ 8.76 (d, 1H, J=15 Hz), 7.91 (dd, 1H, J=9, 3 Hz), 7.41 (t, 1H, J=11 Hz), 7.10-7.32 (m, 5H), 6.77-6.83 (m, 3H), 4.51-4.73 (m, 1H), 3.89 (s, 3H. OCH3), 3.88 and 3.86 (s, 3H, OCH3), 3.74-3.89 (m, 1H), 2.96-3.0 (m, 1H), 2.84-2.92 (m, 2H), 2.94-2.61 (m, 1H).

reactant | (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane | 1 mmol, 0.178 g | N=1N=NN2C1C=CC(=C2)[C@H]2OC2 | C7H6N4O
reactant | α-(3,4-dimethoxyphenyl) benzeneethanamine | 2 mmol, 0.518 g | COC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)N | C16H19NO2
solvent | methanol | 10 mL | CO | CH4O
product | (R)-N-[1-(3,4-dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(tetrazolo[1,5-a]pyrid-6-yl)-ethylamine | COC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)NC[C@@H](C=1C=CC=2N(C1)N=NN2)O | C23H25N5O3
